US07276606B2
1-[6-(1H-Indol-3-yl)-6H-phenanthridin-5-yl]-2-methyl-pentan-1-one was prepared from phenanthridine, 2-methylvaleryl chloride, and indole according to GP 2.

reactant | phenanthridine | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | 2-methylvaleryl chloride | CC(C(=O)Cl)CCC | C6H11ClO
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
product | 1-[6-(1H-Indol-3-yl)-6H-phenanthridin-5-yl]-2-methyl-pentan-1-one | N1C=C(C2=CC=CC=C12)C1N(C=2C=CC=CC2C2=CC=CC=C12)C(C(CCC)C)=O | C27H26N2O
